US07915267B2
A solution of 3-acetylbenzoic acid (4.00 g, 24.366 mmol) and concentrated sulfuric acid (0.078 mL, 1.462 mmol) in ethanol (100 mL) was stirred at 80° C. for 3 days. The reaction mixture was concentrated under reduced pressure, and ethyl acetate was added to the residue. The organic layer was washed with saturated brine, dried over sodium sulfate, and concentrated to give ethyl 3-acetylbenzoate as a brown powder (4.59 g, 98%).

reactant | 3-acetylbenzoic acid | 24.366 mmol, 4.00 g | C(C)(=O)C=1C=C(C(=O)O)C=CC1 | C9H8O3
reactant | sulfuric acid | 1.462 mmol, 0.078 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 100 mL | C(C)O | C2H6O
product | ethyl 3-acetylbenzoate | 4.59 g, 98% | C(C)(=O)C=1C=C(C(=O)OCC)C=CC1 | C11H12O3
